US09210927B2
Preparation of 2-((3-Chloro-5-vinylpyridin-2-yl)methyl)isoindoline-1,3-dione (CI63)
To a stirred solution of 2-((5-bromo-3-chloropyridin-2-yl)methyl)isoindoline-1,3-dione (0.23 g, 0.65 mmol) in toluene (10 mL) were added Pd(PPh3)4 (3.7 mg, 0.003 mmol), K2CO3 (0.269 g, 1.95 mmol) and vinyl boronic anhydride pyridine complex (0.78 g, 3.28 mmol), and the reaction mixture was heated at reflux for 16 h. The reaction mixture was filtered, and the filtrate was washed with H2O and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (20-30% EtOAc in hexane) afforded the title compound as an off-white solid (0.2 g, 65%): 1H NMR (400 MHz, CDCl3) δ 8.30 (s, 1H), 7.91 (m, 2H), 7.77 (m, 3H), 7.72 (m, 1H), 6.63 (m, 1H), 5.79 (d, J=16.0 Hz, 1H), 5.39 (d, J=16.0 Hz, 1H), 5.12 (s, 2H); ESIMS m/z 299.20 ([M+H]+).

reactant | 2-((5-bromo-3-chloropyridin-2-yl)methyl)isoindoline-1,3-dione | 0.65 mmol, 0.23 g | BrC=1C=C(C(=NC1)CN1C(C2=CC=CC=C2C1=O)=O)Cl | C14H8BrClN2O2
reactant | K2CO3 | 1.95 mmol, 0.269 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.003 mmol, 3.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-((3-Chloro-5-vinylpyridin-2-yl)methyl)isoindoline-1,3-dione | 0.2 g, 65% | ClC=1C(=NC=C(C1)C=C)CN1C(C2=CC=CC=C2C1=O)=O | C16H11ClN2O2
